US05254558
2-[5-Amino-2-(4-fluorophenyl)-6-oxo-1,6-dihydro-1-pyrimidinyl]-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide and 4-pyridylcarbinol were subjected to a procedure similar to that described in Example 3.a. Chromatography, with methanol:dichloromethane (5:95) as the eluent, gave 2-[2-(4-fluorophenyl)-6-oxo-5-(4-pyridylmethoxycarbonylamino)-1,6-dihydro-1-pyrimidinyl]-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide as a yellow solid; MS: m/z=666(M+1).

reactant | 2-[5-Amino-2-(4-fluorophenyl)-6-oxo-1,6-dihydro-1-pyrimidinyl]-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)C1=CC=C(C=C1)F | C24H34F4N4O3Si
reactant | 4-pyridylcarbinol | N1=CC=C(C=C1)CO | C6H7NO
reactant | methanol dichloromethane | CO.ClCCl
product | 2-[2-(4-fluorophenyl)-6-oxo-5-(4-pyridylmethoxycarbonylamino)-1,6-dihydro-1-pyrimidinyl]-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | FC1=CC=C(C=C1)C=1N(C(C(=CN1)NC(=O)OCC1=CC=NC=C1)=O)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C | C31H39F4N5O5Si
